US20010053785A1
Palladium (II) acetate (81 mg, 0.036 mmol) was added into a mixture of 4′-(2-benzyl-benzo[b]thiophen-3-yl)-3,5-dibromo-biphenyl-4-ol (1.0 g, 1.82 mmol), 4-methoxy-benzeneboronic acid, barium hydroxide (0.93 g, 5.46 mmol), 1,2-dimethoxyethane (10 mL), and water (10 mL). The mixture was stirred at 75° C. for 10 hours, poured into water, and extracted with ethyl ether. The organic extracts were dried over MgSO4. Evaporation and purification by flash chromatography on silica gel (hexanes/EtAOc 4:1) gave 4,4″-dimethoxy-5′-{4-[2-(phenylmethyl)benzo[b]thien-3-yl]phenyl}[1,1′;3′,1″-terphenyl]-2′-ol as a yellow solid (0.45 g,): mp 80-82; MS m/e 604 (M+);

reactant | 4′-(2-benzyl-benzo[b]thiophen-3-yl)-3,5-dibromo-biphenyl-4-ol | 1.82 mmol, 1.0 g | C(C1=CC=CC=C1)C1=C(C2=C(S1)C=CC=C2)C2=CC=C(C=C2)C2=CC(=C(C(=C2)Br)O)Br | C27H18Br2OS
reactant | 4-methoxy-benzeneboronic acid | COC1=CC=C(C=C1)B(O)O | C7H9BO3
reactant | barium hydroxide | 5.46 mmol, 0.93 g | [OH-].[Ba+2].[OH-]
reactant | 1,2-dimethoxyethane | 10 mL | COCCOC | C4H10O2
catalyst | Palladium (II) acetate | 0.036 mmol, 81 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | water | O | H2O
solvent | water | 10 mL | O | H2O
product | 4,4″-dimethoxy-5′-{4-[2-(phenylmethyl)benzo[b]thien-3-yl]phenyl}[1,1′;3′,1″-terphenyl]-2′-ol | COC1=CC=C(C=C1)C1=C(C(=CC(=C1)C1=CC=C(C=C1)C=1C2=C(SC1CC1=CC=CC=C1)C=CC=C2)C2=CC=C(C=C2)OC)O | C41H32O3S
